US04217273
Example 2 was repeated in every detail except that part of the 2-hydroxy-3-naphthoic acid in the solution thereof was reacted with sodium hypochlorite before addition of the Rosin N solution. Example 3 contained 1% (0.0007 mole), Example 4 contained 2% (0.0014 mole) and Example 5 contained 4% (0.0028 mole) of 10% sodium hypochlorite solution to form, in each case, 1-chloro-2-hydroxy-3-naphthoic acid in situ. The ratio of amino sulfonic acid/coupling component in Examples 2-5 is 1/1.07 (0.0727/0.068 moles).

reactant | 2-hydroxy-3-naphthoic acid | OC1=CC2=CC=CC=C2C=C1C(=O)O | C11H8O3
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | Rosin | C1=CC=C(C=C1)/C=C/CO[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C15H20O6
reactant | sodium hypochlorite | 0.0028 mole | Cl[O-].[Na+]
product | 1-chloro-2-hydroxy-3-naphthoic acid | ClC1=C(C(=CC2=CC=CC=C12)C(=O)O)O | C11H7ClO3
